US04281000
3-Chloro-2-ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
As for Example 34, 1.95 g. of 2-ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine is reacted with 1.47 g. of N-chlorobenzotriazole in 50 ml. of dichloromethane to give the product of the example, m.p. 132°-133° C.

reactant | 2-ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | C(C)C1=NN2C(N=CC=C2C=2C=NC=CC2)=C1 | C13H12N4
reactant | N-chlorobenzotriazole | ClN1N=NC2=C1C=CC=C2 | C6H4ClN3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Chloro-2-ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | ClC=1C(=NN2C1N=CC=C2C=2C=NC=CC2)CC | C13H11ClN4
